US07632837B2
54D. Preparation of N′-(5-(2-chlorophenyl)4-(4-chlorophenyl)pyridin-2-yl)-2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetohydrazide
The title compound (80 mg, 99%) as a white solid was prepared from 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine (50 mg, 0.15 mmol) and 2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetic acid (49.3 mg, 0.225 mmol) in a manner analogous to that in which N′-(6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3-yl)-2-(4-(trifluoromethyl)phenyl)acetohydrazide (Example 11 A) was prepared. HPLC/MS: retention time=3.63 min, [M+H]+=531.1.

reactant | 5-(2-chlorophenyl)-4-(4-chlorophenyl)-2-hydrazinylpyridine | 0.15 mmol, 50 mg | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)NN)C1=CC=C(C=C1)Cl | C17H13Cl2N3
reactant | 2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetic acid | 0.225 mmol, 49.3 mg | CC1=NC(=CC=C1CC(=O)O)C(F)(F)F | C9H8F3NO2
reactant | N′-(6-(2-chlorophenyl)-5-(4-chlorophenyl)pyridazin-3-yl)-2-(4-(trifluoromethyl)phenyl)acetohydrazide | ClC1=C(C=CC=C1)C1=C(C=C(N=N1)NNC(CC1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)Cl | C25H17Cl2F3N4O
product | N′-(5-(2-chlorophenyl)4-(4-chlorophenyl)pyridin-2-yl)-2-(2-methyl-6-(trifluoromethyl)pyridin-3-yl)acetohydrazide | 80 mg, 99% | ClC1=C(C=CC=C1)C=1C(=CC(=NC1)NNC(CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C=C1)Cl | C26H19Cl2F3N4O
